US05821246
Using an analogous procedure to that described in Example 1, 4-amino-2-chlorobenzanilide was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-[3-chloro-4-(N-phenylcarbamoyl)anilino]-6,7-dimethoxyquinazoline hydrochloride salt in 71% yield, m.p. >260° C.;

reactant | 4-amino-2-chlorobenzanilide | NC1=CC(=C(C(=O)NC2=CC=CC=C2)C=C1)Cl | C13H11ClN2O
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-[3-chloro-4-(N-phenylcarbamoyl)anilino]-6,7-dimethoxyquinazoline hydrochloride salt | 71% yield | Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1C(NC1=CC=CC=C1)=O | InChI=1S/C23H19ClN4O3.ClH/c1-30-20-11-17-19(12-21(20)31-2)25-13-26-22(17)27-15-8-9-16(18(24)10-15)23(29)28-14-6-4-3-5-7-14;/h3-13H,1-2H3,(H,28,29)(H,25,26,27);1H
